### PR TITLE
Foundations for an algebraic theory of polyhedral cones

### PR DESCRIPTION
**Pull request by justus-springer**
This PR ports existing results for polyhedral cones into a completely "algebraic" setting. Everything is stated for a pair of modules over an arbitrary linearly ordered field with a bilinear pairing (as opposed to working over the real numbers). The modules should both be finitely generated and the bilinear pairing injective in both arguments for everything to work nicely. This should be a suitable setting for the purposes of toric geometry.

The fundamental result here is that polyhedral cones (defined to be the intersection of finitely many halfspaces, i.e. the dual of a finite set) are precisely the finitely generated ones. Results like that the dual of a polyhedral cone is again polyhedral or that the double dual of a finitely generated cone is the cone itself follow easily from that. Obvious next steps would be to define faces of cones, relative interiors, the category of lattice cones and lattice fans. Everything should be doable in this algebraic setting, no topology should be required.

I've copied the contents of the file `Mathlib/Geometry/Convex/Dual.lean` from the currently open leanprover-community/mathlib4#24149, which provides some basic API around the algebraic dual of a cone. Besides this, there is not much overlap with that PR.

### CODE REVIEW

File: Toric/Mathlib/Algebra/Order/Nonneg/Module.lean [hunk 1]
```diff
@@ -0,0 +1,31 @@
...
+  · have x_eq_smul : x = (⟨x, hx⟩ : {c : 𝕜 // 0 ≤ c}) • 1 := by simp
+    rw [x_eq_smul]
+    exact Submodule.smul_mem _ _ (Submodule.subset_span (Set.mem_insert 1 {-1}))
+  · have x_eq_smul : x = (⟨-x, neg_nonneg.mpr (not_le.mp hx).le⟩ : {c : 𝕜 // 0 ≤ c}) • -1 := by simp
+    rw [x_eq_smul]
+    exact Submodule.smul_mem _ _ (Submodule.subset_span (Set.mem_insert_of_mem 1 rfl))
+
+/-- If a module is finite over a linearly ordered ring, then it is also finite over the non-negative
+scalars. -/
+instance isFiniteModuleOver [h : Module.Finite 𝕜 E] : Module.Finite {c : 𝕜 // 0 ≤ c} E :=
```
Comment (YaelDillies) [inline Toric/Mathlib/Algebra/Order/Nonneg/Module.lean:26]:
```suggestion
instance Noneg.instModuleFinite [Module.Finite 𝕜 E] : Module.Finite {c : 𝕜 // 0 ≤ c} E :=
```

File: Toric/Mathlib/Algebra/Order/Nonneg/Module.lean [hunk 2]
```diff
@@ -0,0 +1,31 @@
...
+  Module.Finite.trans 𝕜 E
```
Comment (YaelDillies) [inline Toric/Mathlib/Algebra/Order/Nonneg/Module.lean:27]:
```suggestion
  .trans 𝕜 E
```

File: Toric/Mathlib/Algebra/Order/Nonneg/Module.lean [hunk 3]
```diff
@@ -0,0 +1,31 @@
...
+import Mathlib.RingTheory.Finiteness.Basic
+
+namespace Nonneg
+
+section Ring
+
+variable (𝕜 E : Type*) [Ring 𝕜] [LinearOrder 𝕜] [IsOrderedRing 𝕜] [AddCommMonoid E] [Module 𝕜 E]
+
+/-- A linearly ordered ring is finitely generated as a module over the non-negative scalars. -/
+instance isFiniteOver : Module.Finite {c : 𝕜 // 0 ≤ c} 𝕜 := by
```
Comment (YaelDillies) [inline Toric/Mathlib/Algebra/Order/Nonneg/Module.lean:11]: Can you make this `private` since it's subsumed by the next instance?

File: Toric/Mathlib/Geometry/Convex/Cone/Dual.lean [hunk 4]
```diff
@@ -0,0 +1,91 @@
...
+
+/-- Any set is a subset of its double dual cone. -/
+lemma subset_dual_dual : s ⊆ dual' p.flip (dual' p s) := fun _x hx _y hy ↦ hy hx
+
+-------------------------------------------------------------
+-- Things below this line are not part of mathlib's #24149 --
+-------------------------------------------------------------
+
+@[simp]
+lemma dual_dual_dual_eq_dual : dual' p (dual' p.flip (dual' p s)) = dual' p s :=
```
Comment (YaelDillies) [inline Toric/Mathlib/Geometry/Convex/Cone/Dual.lean:75]:
```suggestion
lemma dual_dual_flip_dual_eq_dual : dual' p (dual' p.flip (dual' p s)) = dual' p s :=
```
and can we also acquire `dual_flip_dual_dual_flip_eq_dual_flip`?

File: Toric/Mathlib/Geometry/Convex/Cone/Dual.lean [hunk 5]
```diff
@@ -0,0 +1,91 @@
...
+  refine le_antisymm (dual_le_dual subset_span) (fun x hx y hy => ?_)
+  induction hy using Submodule.span_induction with
+  | mem _y h => exact hx h
+  | zero => simp
+  | add y z _hy _hz hy hz =>
+    rw [map_add, add_apply]
+    exact add_nonneg hy hz
+  | smul t y _hy hy =>
+    rw [map_smul_of_tower, Nonneg.mk_smul, smul_apply]
+    exact mul_nonneg t.2 hy
```
Comment (YaelDillies) [inline Toric/Mathlib/Geometry/Convex/Cone/Dual.lean:89]: Do you mind adding these to leanprover-community/mathlib4#24149 ? I see no reason not to

File: Toric/Mathlib/Geometry/Convex/Cone/PolyhedralCone.lean [hunk 6]
```diff
@@ -0,0 +1,225 @@
...
+def IsPolyhedral (c : PointedCone R N) : Prop :=
+  ∃ t : Finset M, c = dual' p t
+
+lemma IsPolyhedral_def {c : PointedCone R N} :
+    IsPolyhedral p c ↔ ∃ t, t.Finite ∧ c = dual' p t :=
+  ⟨fun ⟨t, ht⟩ => ⟨t, t.finite_toSet, ht⟩,
+   fun ⟨_, ht1, ht2⟩ =>⟨ht1.toFinset, ht1.coe_toFinset.symm ▸ ht2⟩⟩
+
+lemma IsPolyhedral_dual_of_Finite {t : Set M} (h : t.Finite) :
+    IsPolyhedral p (dual' p t) := ⟨h.toFinset, by simp⟩
```
Comment (YaelDillies) [inline Toric/Mathlib/Geometry/Convex/Cone/PolyhedralCone.lean:45]:
```suggestion
lemma isPolyhedral_dual_of_finite {t : Set M} (h : t.Finite) :
    IsPolyhedral p (dual' p t) := ⟨h.toFinset, by simp⟩
```
similarly below. The rule is that `UpperCamelCase` becomes `lowerCamelCase` in lemma names

File: Toric/Mathlib/Geometry/Convex/Cone/PolyhedralCone.lean [hunk 7]
```diff
@@ -0,0 +1,225 @@
...
+theorem IsPolyhedral_top : IsPolyhedral p (⊤ : PointedCone R N) := ⟨∅, by simp⟩
+
+@[simp]
+theorem IsPolyhedral_dual_dual {c : PointedCone R N} (hc : IsPolyhedral p c) :
+    dual' p (dual' p.flip (c : Set N)) = c := by
+  obtain ⟨t,rfl⟩ := hc
+  exact dual_dual_dual_eq_dual
+
+theorem IsPolyhedral_dual_inj {c₁ c₂ : PointedCone R N} (hc₁ : IsPolyhedral p c₁)
+    (hc₂ : IsPolyhedral p c₂) (h : dual' p.flip c₁ = dual' p.flip c₂) : c₁ = c₂ := by
```
Comment (YaelDillies) [inline Toric/Mathlib/Geometry/Convex/Cone/PolyhedralCone.lean:62]: `_inj` lemmas are always the iff version:
```suggestion
    (hc₂ : IsPolyhedral p c₂) : dual' p.flip c₁ = dual' p.flip c₂ ↔ c₁ = c₂ := by
```

File: Toric/Mathlib/Geometry/Convex/Cone/PolyhedralCone.lean [hunk 8]
```diff
@@ -0,0 +1,225 @@
...
+  rw [← IsPolyhedral_dual_dual hc₁, ← IsPolyhedral_dual_dual hc₂, h]
+
+end PartialOrder
+
+
```
Comment (YaelDillies) [inline Toric/Mathlib/Geometry/Convex/Cone/PolyhedralCone.lean:67]:
```suggestion

```

File: Toric/Mathlib/Geometry/Convex/Cone/PolyhedralCone.lean [hunk 9]
```diff
@@ -0,0 +1,225 @@
...
+section LinearOrder
+
+variable {𝕜 M N : Type*} [Field 𝕜] [LinearOrder 𝕜] [IsStrictOrderedRing 𝕜] [AddCommGroup M]
+  [AddCommGroup N] [Module 𝕜 M] [Module 𝕜 N] {p : M →ₗ[𝕜] N →ₗ[𝕜] 𝕜}
+
+/-- If the module `M` is finite and the pairing induces an injection `N` into `M →ₗ[𝕜] 𝕜`,
+then the zero cone in `N` is polyhedral. -/
+theorem IsPolyhedral_bot [Module.Finite 𝕜 M] (hp : Function.Injective p.flip) :
```
Comment (YaelDillies) [inline Toric/Mathlib/Geometry/Convex/Cone/PolyhedralCone.lean:75]:
```suggestion
theorem IsPolyhedral.bot [Module.Finite 𝕜 M] (hp : Function.Injective p.flip) :
```
for anonymous dot notation, ie `.bot` when the expected type is `IsPolyhedral _`

File: Toric/Mathlib/Geometry/Convex/Cone/PolyhedralCone.lean
Comment (YaelDillies) [inline Toric/Mathlib/Geometry/Convex/Cone/PolyhedralCone.lean:1]: `Cone.PolyhedralCone` feels redundant. What about `Cone.Polyhedral`?

File: Toric/Mathlib/Geometry/Convex/Cone/PolyhedralCone.lean [hunk 10]
```diff
@@ -0,0 +1,225 @@
...
+lemma IsPolyhedral_dual_of_FG {c : PointedCone R M} (hc : c.FG) :
+    IsPolyhedral p (dual' p (c : Set M)) := by
+  obtain ⟨S, rfl⟩ := hc
+  rw [dual_span]
+  exact ⟨S, rfl⟩ 
+
+theorem IsPolyhedral_top : IsPolyhedral p (⊤ : PointedCone R N) := ⟨∅, by simp⟩
+
+@[simp]
+theorem IsPolyhedral_dual_dual {c : PointedCone R N} (hc : IsPolyhedral p c) :
```
Comment (YaelDillies) [inline Toric/Mathlib/Geometry/Convex/Cone/PolyhedralCone.lean:56]:
```suggestion
theorem IsPolyhedral.dual_dual_flip {c : PointedCone R N} (hc : IsPolyhedral p c) :
```
and can we also get the `dual_flip_dual` version?

File: Toric/Mathlib/Geometry/Convex/Cone/PolyhedralCone.lean (hunk 9 above)
Comment (YaelDillies) [inline Toric/Mathlib/Geometry/Convex/Cone/PolyhedralCone.lean:75]: Do we have a use case where `Injective p.flip` holds, but `p` isn't a perfect pairing?

File: Toric/Mathlib/Geometry/Convex/Cone/PolyhedralCone.lean [hunk 11]
```diff
@@ -0,0 +1,225 @@
...
+  exact Submodule.fg_span T_fin
+
+/-- A cone is polyhedral if and only if it is finitely generated. -/
+theorem IsPolyhedral_iff_fg [Module.Finite 𝕜 N] [Module.Finite 𝕜 M] (hp1 : Function.Injective p)
+    (hp2 : Function.Injective p.flip) {c : PointedCone 𝕜 N} :
+    IsPolyhedral p c ↔ c.FG :=
+  ⟨fg_of_IsPolyhedral hp1 hp2, IsPolyhedral_of_fg hp2⟩
+
+/-- The dual of a polyhedral cone is again polyhedral. -/
+theorem IsPolyhedral_dual_of_IsPolyhedral [Module.Finite 𝕜 N] [Module.Finite 𝕜 M]
```
Comment (YaelDillies) [inline Toric/Mathlib/Geometry/Convex/Cone/PolyhedralCone.lean:218]:
```suggestion
protected theorem IsPolyhedral.dual [Module.Finite 𝕜 N] [Module.Finite 𝕜 M]
```

File: lake-manifest.json
Comment (YaelDillies) [inline lake-manifest.json:1]: You need to merge/rebase master for this to disappear from the diff

**Review by YaelDillies — COMMENTED** [review]
Thanks! This looks great. Can you clarify in the PR description what material you took from leanprover-community/mathlib4#24149 and what's new to your PR?

File: Toric/Mathlib/Algebra/Order/Nonneg/Module.lean (hunk 3 above)
Comment (justus-springer) [reply Toric/Mathlib/Algebra/Order/Nonneg/Module.lean:11]: made it private

File: Toric/Mathlib/Geometry/Convex/Cone/Dual.lean (hunk 4 above)
Comment (justus-springer) [reply Toric/Mathlib/Geometry/Convex/Cone/Dual.lean]: I added `dual_flip_dual_dual_flip_eq_dual_flip`. Note that it is defeq with `dual_dual_flip_dual_eq_dual` however, since `p.flip.flip` is defeq with `p`.

Comment (YaelDillies) [reply Toric/Mathlib/Geometry/Convex/Cone/Dual.lean]: Yep, that's correct. It is *syntactically* different, which is why we need it

File: Toric/Mathlib/Geometry/Convex/Cone/Dual.lean (hunk 5 above)
Comment (justus-springer) [reply Toric/Mathlib/Geometry/Convex/Cone/Dual.lean]: Added them.

File: Toric/Mathlib/Geometry/Convex/Cone/PolyhedralCone.lean (hunk 6 above)
Comment (justus-springer) [reply Toric/Mathlib/Geometry/Convex/Cone/PolyhedralCone.lean]: Corrected this and similar lemma names below. I hope all names comply with the rule now.

File: Toric/Mathlib/Geometry/Convex/Cone/PolyhedralCone.lean (hunk 10 above)
Comment (justus-springer) [reply Toric/Mathlib/Geometry/Convex/Cone/PolyhedralCone.lean]: Added `IsPolyhedral.dual_flip_dual`.

File: Toric/Mathlib/Geometry/Convex/Cone/PolyhedralCone.lean (hunk 9 above)
Comment (justus-springer) [reply Toric/Mathlib/Geometry/Convex/Cone/PolyhedralCone.lean]: I can't think of any, but wanted to use minimal assumptions here.

File: lake-manifest.json
Comment (justus-springer) [reply lake-manifest.json:1]: Merged master

**Review by YaelDillies — APPROVED** [review]
Thank you Justus for the great work! It took me a bit of time, but I got around to reviewing this PR and I think it is now ready to go.

Paul's #14 will unfortunately need to be redone as a consequence of merging this PR.
